US07338959B2
5-({4-[[2-(Benzylamino)-1-methyl-1H-benzimidazol-5-yl](methyl)amino]pyrimidin-2-yl}amino)-N-methoxy-2-methylbenzenesulfonamide
The title compound was prepared following the procedure of Example 2 with N2-benzyl-N5-(2-chloropyrimidin-4-yl)-N5,1-dimethyl-1H-benzimidazole-2,5-diamine (50 mg, 0.13 mmol) and 5-amino-N-methoxy-2-methylbenzenesulfonamide (30 mg, 0.14 mmol) as a white solid (58 mg, 0.10 mmol) after silica gel chromatography with methanol in dichloromethane. 1H NMR (300 MHz, d6-DMSO) δ 10.3 (s, 1H), 9.42 (s, 1H), 8.73 (s, 1H), 7.76-7.80 (m, 2H), 7.40-7.23 (m, 8H), 7.09 (br s, 1H), 6.84 (d, J=7.4 Hz, 1H), 5.61 (d, J=5.3 Hz, 1H), 4.60 (br s, 2H), 4.34 (s, 2H), 3.58 (s, 6H), 3.46 (s, 3H). MS (ESI) m/z=559 [M+H]+.

reactant | N2-benzyl-N5-(2-chloropyrimidin-4-yl)-N5,1-dimethyl-1H-benzimidazole-2,5-diamine | 0.13 mmol, 50 mg | C(C1=CC=CC=C1)NC1=NC2=C(N1C)C=CC(=C2)N(C)C2=NC(=NC=C2)Cl | C20H19ClN6
reactant | 5-amino-N-methoxy-2-methylbenzenesulfonamide | 0.14 mmol, 30 mg | NC=1C=CC(=C(C1)S(=O)(=O)NOC)C | C8H12N2O3S
reactant | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-({4-[[2-(Benzylamino)-1-methyl-1H-benzimidazol-5-yl](methyl)amino]pyrimidin-2-yl}amino)-N-methoxy-2-methylbenzenesulfonamide | C(C1=CC=CC=C1)NC1=NC2=C(N1C)C=CC(=C2)N(C2=NC(=NC=C2)NC=2C=CC(=C(C2)S(=O)(=O)NOC)C)C | C28H30N8O3S
